US06586630B1
(2) Synthesis of 3-tert-Butyl-4-fluorobenzyl Bromide
To a solution of 3-tert-butyl-4-fluorotoluene (5.92 g, 34.4 mmol) in carbon tetrachloride (60 ml), N-bromosuccinimide (6.1 g, 34.4 mmol) and benzoyl peroxide (containing 25% of water) (1.1 g, 3.44 mmol) were added, followed by stirring for 30 min. while heating under reflux. The mixture was evaporated to remove the solvent; the thus obtained residue was mixed with n-hexane and filtered to remove the insoluble matter. The filtrate was evaporated to remove the solvent; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane) to give the titled compound (7.01 g, 83%).

reactant | 3-tert-butyl-4-fluorotoluene | 34.4 mmol, 5.92 g | C(C)(C)(C)C=1C=C(C=CC1F)C | C11H15F
reactant | N-bromosuccinimide | 34.4 mmol, 6.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.44 mmol, 1.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-tert-Butyl-4-fluorobenzyl Bromide | 7.01 g, 83% | C(C)(C)(C)C=1C=C(CBr)C=CC1F | C11H14BrF
